US06103946
Preparation of 2,6-bis-[1-(2-methylphenylimino)ethyl]pyridine, (VII)
One g of 2,6-diacetylpyridine and 3.0 ml of o-toluidine were added to an Erlenmeyer flask with 20 ml of methylene chloride. A stirbar and 5 drops of 97% formic acid were added, and the flask was sealed and the solution was stirred for 40 hours. The solvent was then removed in vacuo, and the flask was placed in the freezer at -30° C. The resulting viscous oil was washed with cold methanol, and a yellow solid formed and was isolated by filtration and identified by 1H NMR as the desired product (959 mg, 45.9%). 1H NMR (CDCl3): δ 8.38(d, 2, Hpyr), 7.86(t, 1, Hpyr), 7.20(m, 4, Haryl), 7.00(t, 2, Haryl), 6.67(d, 2, Haryl), 2.32(s, 6, N=C--CH3), 2.10(s, 6, CH3 aryl).

reactant | 2,6-diacetylpyridine | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | o-toluidine | 3.0 ml | NC=1C(=CC=CC1)C | C7H9N
catalyst | formic acid | 5 drops | C(=O)O | CH2O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,6-bis-[1-(2-methylphenylimino)ethyl]pyridine | 959 mg, 45.9% | CC1=C(C=CC=C1)N=C(C)C1=NC(=CC=C1)C(C)=NC1=C(C=CC=C1)C | C23H23N3
